US09079866B2
6-Amino-3-{3-fluoro-2′-[(3-oxopiperazin-1-yl)sulfonyl]-4′-(trifluoromethyl)biphenyl-4-yl}pyrazine-2-carbonitrile
The title compound was prepared using conditions analogous to those used to make Example 6 utilizing 6-amino-3-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile and 4-((2-bromo-5-(trifluoromethyl)phenyl)sulfonyl)piperazin-2-one. MS (ESI): mass calcd. for C22H16F4N6O3S, 520.09; m/z found, 520.8 [M+H]+. 1H NMR (600 MHz, DMSO-δ6) δ 8.29 (d, J=1.9, 1H), 8.26 (s, 1H), 8.19 (dd, J=8.2, 1.9, 1H), 8.07-8.01 (m, 1H), 7.77 (d, J=7.9, 1H), 7.70-7.64 (m, 1H), 7.49 (dd, J=10.8, 1.7, 1H), 7.44-7.36 (m, 3H), 3.39 (s, 2H), 3.07-2.96 (m, 4H).

reactant | 6-amino-3-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile | NC1=CN=C(C(=N1)C#N)C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C17H18BFN4O2
reactant | 4-((2-bromo-5-(trifluoromethyl)phenyl)sulfonyl)piperazin-2-one | BrC1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)N1CC(NCC1)=O | C11H10BrF3N2O3S
product | 6-Amino-3-{3-fluoro-2′-[(3-oxopiperazin-1-yl)sulfonyl]-4′-(trifluoromethyl)biphenyl-4-yl}pyrazine-2-carbonitrile | NC1=CN=C(C(=N1)C#N)C1=C(C=C(C=C1)C1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)N1CC(NCC1)=O)F | C22H16F4N6O3S
